US06004982
cis-1-(Aminomethyl)-3,4-dihydro-5,6-dimethoxy-3-[1(2-phenylethyl)-4-piperidinyl]-1H-2-benzopyran
A mixture of cis-N-[3,4-dihydro-5,6-dimethoxy-3-[1-(2-phenylethyl)-4-piperidinyl]-1H-2-benzopyran-1-ylmethyl]formamide hydrochloride (4.7 g, 10 mmol) and its free base (2.1 g, 4.7 mmol) was dissolved in 3N HCl (30 ml)-EtOH (30 ml), and refluxed for 2 h. The reaction was diluted with water, and then stirred and cooled in an ice bath, while 50% aqueous NaOH was added dropwise. A white solid separated from solution and this was collected to afford the titled compound. The compound was recrystallized from toluene to afford the amine as a white solid, mp 100-102° C.

reactant | cis-N-[3,4-dihydro-5,6-dimethoxy-3-[1-(2-phenylethyl)-4-piperidinyl]-1H-2-benzopyran-1-ylmethyl]formamide hydrochloride | 10 mmol, 4.7 g | Cl.COC1=C(C=CC2=C1C[C@H](O[C@H]2CNC=O)C2CCN(CC2)CCC2=CC=CC=C2)OC
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 3N, 30 ml | Cl | ClH
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | water | O | H2O
product | cis-1-(Aminomethyl)-3,4-dihydro-5,6-dimethoxy-3-[1(2-phenylethyl)-4-piperidinyl]-1H-2-benzopyran | NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2OC)OC)C2CCN(CC2)CCC2=CC=CC=C2 | C25H34N2O3
